US07696229B2
A solution of H2SO4 (6 g, 60.00 mmol) in ether (40 mL) was added dropwise to a solution of 1-methyl-1,2,3,4-tetrahydroquinoline (9 g, 61.14 mmol) in diethylether (10 mL) at 5° C. The resulting solution was maintained at room temperature for 30 minutes, then under vacuum, with stirring, for an additional 3 hours at 170° C. The resulting mixture was washed with methanol (1×100 mL) and filtered to afford 5 g (34%) of 1-methyl-1,2,3,4-tetrahydroquinoline-6-sulfonic acid as a white solid.

reactant | H2SO4 | 60.00 mmol, 6 g | OS(=O)(=O)O | H2O4S
reactant | 1-methyl-1,2,3,4-tetrahydroquinoline | 61.14 mmol, 9 g | CN1CCCC2=CC=CC=C12 | C10H13N
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
product | 1-methyl-1,2,3,4-tetrahydroquinoline-6-sulfonic acid | 5 g, 34% | CN1CCCC2=CC(=CC=C12)S(=O)(=O)O | C10H13NO3S
